US05859007
2-[3-(6-Fluoro-1H-indazol-3-ylmethyl)-2,4-dioxo-5-phenyl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl]-N-isopropyl-N-phenyl-acetamide
400 mg of 2-[3-(6-Fluoro-1-tert-butoxycarbonyl-1H-indazol-3-ylmethyl)-2,4-dioxo-5-phenyl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl)-N-isopropyl-N-phenyl-acetamide, prepared as in Intermediate 69, is dissolved in 10 mL of CHCl3 and 5 mL of TFA is added. The reaction mixture is stirred for 6 h and the solvents were removed in vacuo to afford 240 mg of the title compound: 1H NMR (400 MHz, DMSO-d6) δ7.82-6.88 (m, 18H), 4.77(m, 1H, J=6.8), 4.45 (d, 1H, J=16.8), 4.12 (m, 2H), 3.41 (m, 2H), 0.95 (t, 6H, J=6.8); low resolution MS (FAB) m/e 576 (MH+); Tr =10.31 min. (HPLC Column: Dynamax C-8 2 mL/min., 50-90% Acetonitrile in aqueous TFA (0.1% v/v) over 15 min.).

reactant | 2-[3-(6-Fluoro-1-tert-butoxycarbonyl-1H-indazol-3-ylmethyl)-2,4-dioxo-5-phenyl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl)-N-isopropyl-N-phenyl-acetamide | 400 mg | FC1=CC=C2C(=NN(C2=C1)C(=O)OC(C)(C)C)CC1C(N(C2=C(N(C1=O)CC(=O)N(C1=CC=CC=C1)C(C)C)C=CC=C2)C2=CC=CC=C2)=O | C39H38FN5O5
reactant | TFA | 5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CHCl3 | 10 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-[3-(6-Fluoro-1H-indazol-3-ylmethyl)-2,4-dioxo-5-phenyl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl]-N-isopropyl-N-phenyl-acetamide | 240 mg | FC1=CC=C2C(=NNC2=C1)CC1C(N(C2=C(N(C1=O)CC(=O)N(C1=CC=CC=C1)C(C)C)C=CC=C2)C2=CC=CC=C2)=O | C34H30FN5O3
